US06969725B2
b] [rac]-2-Ethoxy-3-(4-hydroxy-2-isopropoxy-phenyl)-propionic acid ethyl ester
0.80 g of Pd/C (10%) and 6.0 g of oxalic acid dihydrate were added under argon to 3.20 g (7.95 mmol) of [rac]-3-(4-benzyloxy-2-isopropoxy-phenyl)-2-ethoxy-3-hydroxy-propionic acid ethyl ester [mixture of diastereomers] dissolved in 60 ml of isopropanol. This solution was stirred for 24 hours at room temperature and 50 bar H2. Filtration over dicalite and evaporation of the solvents, followed by flash chromatography (SiO2, hexane/AcOEt=9:1 to 1:1) left 0.69 g (29% of theory) of [rac]-2-ethoxy-3-(4-hydroxy-2-isopropoxy-phenyl)-propionic acid ethyl ester as yellow oil.

reactant | oxalic acid dihydrate | 6.0 g | O.O.C(C(=O)O)(=O)O
reactant | [rac]-3-(4-benzyloxy-2-isopropoxy-phenyl)-2-ethoxy-3-hydroxy-propionic acid ethyl ester | 7.95 mmol, 3.20 g | C(C)OC(C(C(O)C1=C(C=C(C=C1)OCC1=CC=CC=C1)OC(C)C)OCC)=O | C23H30O6
solvent | isopropanol | 60 ml | C(C)(C)O | C3H8O
catalyst | Pd/C | 0.80 g | [Pd] | Pd
product | [rac]-2-Ethoxy-3-(4-hydroxy-2-isopropoxy-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)OC(C)C)OCC)=O | C16H24O5
